US04337267
A solution of 16.1 g of potassium hydroxide in 250 ml of ethanol is added dropwise to 87 g of 4-phenoxybutylmalonic acid diethyl ester in 250 ml of ethanol at room temperature. The mixture is stirred for 24 hours and substantially concentrated in vacuo; the residue is taken up in 500 ml of water and the aqueous mixture is extracted with 200 ml of diethyl ether. The aqueous phase is acidified with concentrated hydrochloric acid, while cooling with ice, and extracted 3 times with 200 ml of diethyl ether each time. After drying over sodium sulfate, the organic phase is concentrated. 66.45 g of 4-phenoxybutylmalonic acid ethyl ester of m.p. 69° to 72° C. are obtained.

reactant | potassium hydroxide | 16.1 g | [OH-].[K+]
reactant | 4-phenoxybutylmalonic acid diethyl ester | 87 g | C(C)OC(C(C(=O)OCC)CCCCOC1=CC=CC=C1)=O | C17H24O5
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-phenoxybutylmalonic acid ethyl ester | 66.45 g | C(C)OC(C(C(=O)O)CCCCOC1=CC=CC=C1)=O | C15H20O5
